US08293768B2
Synthesis of 1-(4-methyl-5-(5-methyl-1H-pyrazol-3-yl)thiazol-2-yl)-3-(4-(trifluoromethyl)benzyl)imidazolidin-2-one
Following the procedure as described in Example 38, making variations as required to replace (E)-1-(5-(3-(dimethylamino)acryloyl)-4-methylthiazol-2-yl)-3-(4-(trifluoromethyl)benzyl)imidazolidin-2-one with (E)-1-(5-(3-(dimethylamino)but-2-enoyl)-4-methylthiazol-2-yl)-3-(4-(trifluoromethyl)benzyl)imidazolidin-2-one to react with hydrazine monohydrate, the title compound was obtained as a colorless solid in 67% yield: mp 238-239° C. (ethyl acetate); 1H NMR (300 MHz, CDCl3) δ 7.53 (d, J=7.8 Hz, 2H), 7.34 (d, J=7.8 Hz, 2H), 6.08 (s 1H), 4.52 (s, 2H), 4.04-3.99 (m, 2H), 3.42-3.36 (m, 2H), 2.36 (s, 3H), 2.24 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 156.8, 155.8, 143.1, 139.9, 130.3, 129.9, 128.3, 125.8, 125.7, 122.1, 103.6, 47.5, 41.9, 41.8, 16.0, 10.8; MS (ES+) m/z 422.1 (M+1).

reactant | (E)-1-(5-(3-(dimethylamino)acryloyl)-4-methylthiazol-2-yl)-3-(4-(trifluoromethyl)benzyl)imidazolidin-2-one | CN(/C=C/C(=O)C1=C(N=C(S1)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O)C)C | C20H21F3N4O2S
reactant | (E)-1-(5-(3-(dimethylamino)but-2-enoyl)-4-methylthiazol-2-yl)-3-(4-(trifluoromethyl)benzyl)imidazolidin-2-one | CN(/C(=C/C(=O)C1=C(N=C(S1)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O)C)/C)C | C21H23F3N4O2S
reactant | hydrazine monohydrate | O.NN
product | 1-(4-methyl-5-(5-methyl-1H-pyrazol-3-yl)thiazol-2-yl)-3-(4-(trifluoromethyl)benzyl)imidazolidin-2-one | 67% yield | CC=1N=C(SC1C1=NNC(=C1)C)N1C(N(CC1)CC1=CC=C(C=C1)C(F)(F)F)=O | C19H18F3N5OS
